US07084170B2
4–Chlorothiophene-2-sulfonamide
To a stirred solution of 5-bromo-4-chlorothiophene-2-sulfonamide (2.4 g, 8.7 mmol) in AcOH (20 mL) is added zinc dust (1.7 g, 26.0 mmol). The reaction mixture is heated to 120° C. for 6 hr. After 6 hr, the mixture is filtered and neutralized with 1 M NaOH. The aqueous layer is extracted with EtOAc (2×100 mL). The combined organic extracts are dried (Na2SO4), filtered and concentrated in vacuo. The crude product is chromatographed on silica gel, eluting with CH2Cl2 to afford the title compound (0.88 g, 52%).

reactant | 5-bromo-4-chlorothiophene-2-sulfonamide | 8.7 mmol, 2.4 g | BrC1=C(C=C(S1)S(=O)(=O)N)Cl | C4H3BrClNO2S2
solvent | AcOH | 20 mL | CC(=O)O | C2H4O2
catalyst | zinc | 26.0 mmol, 1.7 g | [Zn] | Zn
product | 4–Chlorothiophene-2-sulfonamide | 0.88 g, 52% | ClC=1C=C(SC1)S(=O)(=O)N | C4H4ClNO2S2
